US04599344
N-[2-Chloro-5-[3-(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)-1-oxopropyl]phenyl]methanesulfonamide hydrochloride
To 6.14 g (0.02 mole) of 2-[3-(3-amino-4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one in 100 ml of chloroform add 5.22 g (0.03 mole) of methanesulfonic anhydride. Heat the mixture to reflux and follow the progress of the reaction by thin-layer chromatography. At the completion of the reaction add 100 ml of water and stir for ca. 1/2 hour. Adjust the pH of the water layer to pH=8.5-9 with sodium carbonate. Separate the layers and extract the water layer with 4×100 ml of chloroform. Combine the chloroform extracts and dry over anhydrous sodium sulfate. Remove the drying agent by filtration and evaporate the solvent in vacuo. Dissolve the residue in 100 ml of ethanol and add 2.5 ml of concentrated hydrochloric acid. Remove the solvent in vacuo to afford the title compound.

reactant | 2-[3-(3-amino-4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one | 0.02 mole, 6.14 g | NC=1C=C(C=CC1Cl)C(CCC1N2CCC(C1=O)CC2)=O | C16H19ClN2O2
reactant | methanesulfonic anhydride | 0.03 mole, 5.22 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | water | 100 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-Chloro-5-[3-(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)-1-oxopropyl]phenyl]methanesulfonamide hydrochloride | Cl.ClC1=C(C=C(C=C1)C(CCC1N2CCC(C1=O)CC2)=O)NS(=O)(=O)C | InChI=1S/C17H21ClN2O4S.ClH/c1-25(23,24)19-14-10-12(2-3-13(14)18)16(21)5-4-15-17(22)11-6-8-20(15)9-7-11;/h2-3,10-11,15,19H,4-9H2,1H3;1H
